US06756498B2
2-(4-Fluorophenyl)-6trifluoromethylpyrazolo[1,5-a]pyridine
To a solution of 1-(4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime (2.0 g, 6.7 mmol) in ethyl acetate (8 ml) at 7° C. was added methanesulfonyl chloride (0.52 ml, 6.7 mmol) over 3 minutes. The reaction mixture was stirred for 5 minutes before the dropwise addition of triethylamine (1.92 ml, 13.8 mmol) over 5 minutes. The reaction temperature was allowed to rise to 30° C. and the resulting suspension stirred at this temperature for two hours. Iron (II) chloride (8 mg) was then added and the mixture heated at reflux for 40 minute s before the addition of further iron (II) chloride (5 mg) and heating at reflux for 6 hours. The reaction mixture was then cooled to room temperature and water was added (5 ml). The phases were separated and the aqueous phase re-extracted with ethyl acetate. The organic extracts were combined, washed with water (5 ml) and evaporated in vacuo to give an orange-brown solid. The solid was triturated with isohexane (25 ml), the mixture filtered, the filter cake washed with isohexane (2×10 ml) and dried to give the title compound as a dull orange solid (1.06 g, 56%).

reactant | 1-(4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime | 6.7 mmol, 2.0 g | FC1=CC=C(C=C1)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H10F4N2O
reactant | methanesulfonyl chloride | 6.7 mmol, 0.52 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 13.8 mmol, 1.92 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | Iron (II) chloride | 8 mg | [Fe](Cl)Cl
catalyst | iron (II) chloride | 5 mg | [Fe](Cl)Cl
product | 2-(4-Fluorophenyl)-6trifluoromethylpyrazolo[1,5-a]pyridine | 1.06 g, 56% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H8F4N2
